* C:\Gedeeld\Project\Git\Normalization\LTspice\Test.asc
V1 Vin 0 0 AC 0.1
V2 Vdd 0 5
R1 N001 Vin 100
R2 Vout N001 100
V3 0 N002 5
XU2 0 N001 Vdd N002 Vout LM4562
.ac oct 10000 0.1 1000Meg
.lib NewOpamps\LM4562.lib
.backanno
.end
