* C:\Gedeeld\Project\Git\Normalization\LTspice\Test.asc
V1 Vin 0 SINE(0 1.1 100) AC 1
V2 Vdd 0 10
R1 N001 Vin 1000
R2 Vout N001 100
V3 0 N002 10
XU1 N001 0 Vout Vdd N002 TS92X
;ac oct 1000 0.1 100Meg
.tran 0 0.1 0 0.01 startup
.lib C:\Gedeeld\Project\Git\Normalization\sub\NewOpamps\ts92x_series.lib
.backanno
.end
