* C:\Gedeeld\Project\Git\Normalization\LTspice\Test.asc
V1 Vin 0 SINE(0 0.4 100) AC 1
V2 Vdd 0 5
R1 N001 Vin 100
R2 Vout N001 100
V3 0 N002 5
XU1 0 N001 Vdd N002 Vout LM4562
;ac oct 1000 0.1 100Meg
.tran 0 0.1 0 0.01 startup
.lib NewOpamps\LM4562.lib
.backanno
.end
