* C:\Gedeeld\Project\Git\Normalization\LTspice\Test.asc
V1 Vin 0 SINE(0 0.2 100) AC 1
V2 Vdd 0 10
V3 0 N002 10
XU1 Vin N001 Vdd N002 Vout LM4562
R3 Vout N001 100
R1 N001 0 1k
;tran 0 0.1 0 0.01
.tran 0 0.1 0 0.001
.lib NewOpamps\LM4562.lib
.backanno
.end
